US07012075B2
To a mixture of 3-amino-4-bromo-5-methylisoxazole (2.58 g, 14.6 mmol) and DMAP (893 mg, 7.3 mmol) in 60 mL dichloromethane at −78° C. was added pyridine (6 ml, 74.1 mmol) followed by 2,2,2-trichloroethyl chloroformate (8 ml, 58 mmol). The reaction was allowed to warm to room temperature while stirring over ca. 4 hours. Ice water was added, the aqueous phase neutralized with saturated aq. NaHCO3, and the product extracted with ether (3×), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography (20% ethyl acetate/hexane) to afford 2,2,2-trichloroethyl 4-bromo-5-methylisoxazol-3-ylcarbamate.

reactant | 3-amino-4-bromo-5-methylisoxazole | 14.6 mmol, 2.58 g | NC1=NOC(=C1Br)C | C4H5BrN2O
reactant | pyridine | 74.1 mmol, 6 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 58 mmol, 8 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 7.3 mmol, 893 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2,2,2-trichloroethyl 4-bromo-5-methylisoxazol-3-ylcarbamate | BrC=1C(=NOC1C)NC(OCC(Cl)(Cl)Cl)=O | C7H6BrCl3N2O3
